US07550474B2
b. [2-(N-Methyl-N-methoxycarbonyl-aminooxy)-ethyl]-carbamic Acid tert-butyl Ester
To a solution of N-Hydroxy-N-methyl-carbamic acid methyl ester (5.90 g, 56.2 mmol), as prepared in the previous step, in DMF (130 mL) at 0° C. was added NaH (1.35 g, 53 mmol) in one portion. The mixture was stirred at room temperature for 15 min, then stirred on an ice bath while a solution of methanesulfonic acid 2-tert-butoxycarbonylamino-ethyl ester (10.38 g, 43 mmol) (Clagett-Dame, M., et al; Biochim. Biophys. Acta, 986:271-280, 1989) in DMF (50 mL) was added in one portion. The ice bath was removed and the mixture stirred at room temperature 23 h. The DMF was removed by rotary evaporation, the residue was diluted with half-saturated NaHCO3 (100 mL), and extracted with EtOAc (3×50 mL). The organic layers were combined, dried (Na2SO4), and concentrated. Flash chromatographic purification of the residue (3:2 hex/EtOAc) afforded 643 mg of the title compound as a colorless oil (2.59 mmol, 6% yield). 1H NMR (300 Hz, CDCl3) δ 5.38 (br s, 1H), 3.89 (t, J=5.1 Hz, 2H), 3.78 (s, 3H), 3.34 (q, J=5.5 Hz, 2H), 3.14 (s, 3H), 1.45 (s, 9H); LC/MS (m/z) [MH+−Boc] 149 (calculated for C5H13N2O3, 149.1).

reactant | N-Hydroxy-N-methyl-carbamic acid methyl ester | 56.2 mmol, 5.90 g | COC(N(C)O)=O | C3H7NO3
reactant | NaH | 53 mmol, 1.35 g | [H-].[Na+]
reactant | methanesulfonic acid 2-tert-butoxycarbonylamino-ethyl ester | 43 mmol, 10.38 g | C(C)(C)(C)OC(=O)NCCOS(=O)(=O)C | C8H17NO5S
solvent | DMF | 130 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | [2-(N-Methyl-N-methoxycarbonyl-aminooxy)-ethyl]-carbamic Acid tert-butyl Ester | 2.59 mmol, 643 mg, 6% yield | C(C)(C)(C)OC(NCCON(C(=O)OC)C)=O | C10H20N2O5
